US07214824B2
38(a): 3-(Benzyloxy)-4-tert-butylphenyl tert-butyl carbonate
To an acetone (100 mL) solution of tert-butyl 4-tert-butyl-3-hydroxyphenyl carbonate (J. Org. Chem. 2001, 66, 3435) (5.5 g, 20.7 mmol) were added potassium carbonate (8.6 g, 63 mmol) and benzyl bromide (3.0 ml, 25.0 mmol). The stirred mixture was refluxed at 65° C. for 4 hours. The precipitate was filtered off and washed with acetone. The filtrate was concentrated under reduced pressure to give a residue, which was applied to a silica gel chromatography column and eluted with ethyl acetate/hexane= 1/30 to furnish 7.1 g (96% yield) of the title compound as a colorless oil.

reactant | tert-butyl 4-tert-butyl-3-hydroxyphenyl carbonate | 20.7 mmol, 5.5 g | C(OC(C)(C)C)(OC1=CC(=C(C=C1)C(C)(C)C)O)=O | C15H22O4
reactant | potassium carbonate | 63 mmol, 8.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 25.0 mmol, 3.0 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 3-(Benzyloxy)-4-tert-butylphenyl tert-butyl carbonate | 7.1 g, 96% yield | C(OC1=CC(=C(C=C1)C(C)(C)C)OCC1=CC=CC=C1)(OC(C)(C)C)=O | C22H28O4
